US09102684B2
5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-3-hydroxy-2-methyl-2,3-dihydro-isoindol-1-one
4-Bromo-2-(3-fluoro-5-methoxy-benzoyl)-benzoic acid (140 mg; 0.39 mmol) is dissolved in 1.4 ml N,N-dimethylformamide, treated with N,N-Diisopropylethylamine (154 μl; 1.19 mmol) and HATU (66 mg; 0.44 mmol). It is stirred at ambient temperature for 5 minutes before 2.0 mol/l methylamine (341 μl; 0.80 mmol) is added. After 16 hours the reaction mixture is purified via reversed phase chromatography under basic conditions.

reactant | 4-Bromo-2-(3-fluoro-5-methoxy-benzoyl)-benzoic acid | 0.39 mmol, 140 mg | BrC1=CC(=C(C(=O)O)C=C1)C(C1=CC(=CC(=C1)OC)F)=O | C15H10BrFO4
reactant | N,N-Diisopropylethylamine | 1.19 mmol, 154 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.44 mmol, 66 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine | 0.80 mmol, 2.0 mol/l, 341 μl | CN | CH5N
solvent | N,N-dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-3-hydroxy-2-methyl-2,3-dihydro-isoindol-1-one | BrC=1C=C2C(N(C(C2=CC1)=O)C)(O)C1=CC(=CC(=C1)OC)F | C16H13BrFNO3
